US08492405B2
To a mixture of 2-methyl-3-[methyl(2-thienylsulfonyl)amino]-4H-thieno[3,2-b]pyrrole-5-carboxylic acid (2.0 g), hydrazine monohydrate (2 mL), 1H-1,2,3-benzotriazol-1-ol (920 mg), tetrahydrofuran (20 mL) and acetonitrile (20 mL) was added N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (1.15 g), and the mixture was stirred at room temperature for 30 min. Saturated aqueous sodium hydrogen carbonate solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated to give a colorless oil. The colorless oil was dissolved in N,N-dimethylacetamide (10 mL), and ethyl 3-chloro-3-oxopropanoate (0.67 mL) was added. The reaction mixture was stirred at room temperature for 1 hr, 1N hydrochloric acid was added, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. Crystallization from diethyl ether gave ethyl [2-({2-methyl-3-[methyl(2-thienylsulfonyl)amino]-4H-thieno[3,2-b]pyrrol-5-yl}carbonyl)hydrazino](oxo)acetate (1.7 g, yield 65%) as colorless crystals. melting point 135° C.

reactant | 2-methyl-3-[methyl(2-thienylsulfonyl)amino]-4H-thieno[3,2-b]pyrrole-5-carboxylic acid | 2.0 g | CC1=C(C=2NC(=CC2S1)C(=O)O)N(S(=O)(=O)C=1SC=CC1)C | C13H12N2O4S3
reactant | hydrazine monohydrate | 2 mL | O.NN
reactant | 1H-1,2,3-benzotriazol-1-ol | 920 mg | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 1.15 g | Cl.CN(CCCN=C=NCC)C
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | ethyl 3-chloro-3-oxopropanoate | 0.67 mL | ClC(CC(=O)OCC)=O | C5H7ClO3
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | N,N-dimethylacetamide | 10 mL | CN(C(C)=O)C | C4H9NO
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | ethyl [2-({2-methyl-3-[methyl(2-thienylsulfonyl)amino]-4H-thieno[3,2-b]pyrrol-5-yl}carbonyl)hydrazino](oxo)acetate | 1.7 g, yield 65% | CC1=C(C=2NC(=CC2S1)C(=O)NNC(C(=O)OCC)=O)N(S(=O)(=O)C=1SC=CC1)C | C17H18N4O6S3
